Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with hypertension, overactive bladder, ?
dementia, transferred from ___ for acute
pancreatitis.  On
___, noted left sided chest pain, went to hospital, with
cardiac work-up negative.  On ___, pain came back and had
sweats, no chills around midday, called EMS, hypotensive to
___, given IVF and aspirin 324 with improvement in BP to
130s/50s. OSH labs/imaging concerning for biliary ductal 
dilation
with obstructing stone in common bile duct, transferred to 
___.

In the ED, initial vitals were 97.7 69 118/51 15 95% RA.  She
reported nausea, no vomiting.  

Labs from ___:
Leukocytosis to 12.9 (neutrophil predominant)
Cr at baseline 0.71
AST 207 ALT 114, Alk phos 93, t bili 0.6
Lipase 6927
Trop neg

Labs at ___ showed WBC 10.4K, plts 143K, ALT 464, AST 617,
lipase 950, Tbili 0.3, lactate 0.9.

CTAP: 
- cholecystectomy, intrahepatic and extrahepatic biliary ductal
dilatation (1.2 cm), no obstructing intraductal stone or
pancreatic head mass detected, no pancreatic ductal dilatation,
no pancreatitis detected. 
- Normal bowel caliber, colon diverticulosis without
diverticulitis. 
- L5 35% compression fracture. 
- S/p right total hip, overlying circumscribed fluid collection
in lateral right flank subcutaneous fat bay be postoperative
fluid vs abscess. Total hip appears intact. 

CTA negative for PE.

Patient received 1 liter NS and 500 mg IV metronidazole.

Currently, patient reports ___ left-sided chest pain. There is
no abdominal pain.  She has no current nausea.  There is no
fevers or chills.  She reports no dyspnea.
 

Review of systems:
10 pt ROS negative other than noted
 
Past Medical History:
Hypertension
Anxiety
Mild cognitive impairment
Overactive bladder
 
Social History:
___
Family History:
Father with CAD
 
Physical Exam:
ADMISSION EXAM:
Vitals: ___ 1002 Temp: 97.6 PO BP: 148/71 HR: 77 RR: 18 O2
sat: 93% O2 delivery: Ra 
___ 1056 Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN: Alert, oriented to name, place, date. Fatigued appearing 
but
comfortable, no acute signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  No
pain to palpation of chest wall.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, + bowel sounds.
EXTR: 1+ lower leg edema, left knee well healed scar, LLE
slightly larger than right and tender to palpation. 
DERM: No active rash.
Neuro: moving all four extremities purposefully, non-focal.
PSYCH: Appropriate and calm.

DISCHARGE EXAM:
VS: ___ Temp: 98.4 PO BP: 142/74 HR: 61 RR: 18 O2 sat:
93% O2 delivery: RA 
___ 0801 Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN: Alert, oriented to name, place, date. Fatigued appearing 
but
comfortable, no acute signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  No
pain to palpation of chest wall.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, + bowel sounds.
EXTR: 1+ lower leg edema, left knee well healed scar, LLE
slightly larger than right and tender to palpation. 
DERM: No active rash.
Neuro: moving all four extremities purposefully, non-focal.
PSYCH: Appropriate and calm.
 
Pertinent Results:
ADMISSION LABS
--------------
___ 04:00AM BLOOD WBC-10.4* RBC-4.30 Hgb-12.3 Hct-38.7 
MCV-90 MCH-28.6 MCHC-31.8* RDW-14.3 RDWSD-47.2* Plt ___
___ 04:00AM BLOOD Neuts-86.5* Lymphs-5.4* Monos-7.3 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.03* AbsLymp-0.56* 
AbsMono-0.76 AbsEos-0.01* AbsBaso-0.02
___ 04:00AM BLOOD ___ PTT-23.6* ___
___ 04:00AM BLOOD Glucose-116* UreaN-24* Creat-0.7 Na-139 
K-4.8 Cl-107 HCO3-24 AnGap-8*
___ 04:00AM BLOOD ALT-464* AST-617* CK(CPK)-45 AlkPhos-97 
TotBili-0.3
___ 04:00AM BLOOD CK-MB-4 cTropnT-<0.01
___ 12:50PM BLOOD Calcium-8.9 Phos-2.7 Mg-2.2
___ 04:00AM BLOOD Albumin-3.8
___ 04:06AM BLOOD Lactate-0.9

IMAGING
-------
MRCP ___:
Prominence of the intra and extrahepatic biliary ducts without 
an
obstructing lesion or calculus.  Findings may be a consequence 
of
the post cholecystectomy state.

CT A/P (OSH): 
- cholecystectomy, intrahepatic and extrahepatic biliary ductal
dilatation (1.2 cm), no obstructing intraductal stone or
pancreatic head mass detected, no pancreatic ductal dilatation,
no pancreatitis detected. 
- Normal bowel caliber, colon diverticulosis without
diverticulitis. 
- L5 35% compression fracture. 
- S/p right total hip, overlying circumscribed fluid collection
in lateral right flank subcutaneous fat bay be postoperative
fluid vs abscess. Total hip appears intact.

CTA chest (OSH):
Negative for pulmonary embolism.  Bilateral mild atelectasis,
possible consolidative atelectasis/pneumonia in the superior
segment of the right lower lobe.

CXR (OSH): Clear lungs

Left lower extremity ultrasound ___:
No evidence of deep venous thrombosis in the left lower 
extremity
veins. 

ECG reviewed and interpreted by me as SR @ 60 bpm with PACs,
NANI, no ST or T wave abnormalities, no previous for comparison

MICROBIOLOGY
------------
___ 7:15 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

DISCHARGE LABS
--------------
___ 06:32AM BLOOD WBC-6.2 RBC-4.37 Hgb-12.6 Hct-39.2 MCV-90 
MCH-28.8 MCHC-32.1 RDW-13.6 RDWSD-45.1 Plt ___
___ 06:35AM BLOOD ___ PTT-28.2 ___
___ 06:32AM BLOOD Glucose-85 UreaN-12 Creat-0.6 Na-143 
K-3.9 Cl-106 HCO3-26 AnGap-11
___ 06:32AM BLOOD ALT-222* AST-120* LD(LDH)-185 AlkPhos-94 
TotBili-0.4
___ 06:32AM BLOOD Calcium-9.1 Phos-2.8 Mg-1.___ year old female with HTN, overactive bladder, ? dementia, 
transferred from ___ for acute pancreatitis.

# Acute pancreatitis
# Abnormal liver function tests
# Sepsis: patient presents with pancreatitis.  Not obstructive 
on MRCP.  No history of alcohol abuse.  Interestingly, does not 
have abdominal pain, but
left-sided chest pain.  There has been no nausea.  She was 
hypotensive on presentation to OSH ED, now improved, possibly 
from inflammation, no evidence of infection.  Started on 
antibiotics at OSH, then stopped when no evidence of infection.  
Patient tolerated advancement of her diet.  She should observe a 
regular low-fat diet.  LFTs were downtrending throughout her 
hospital course.  ERCP team felt there was no need for 
procedure.  She will follow up with her PCP, who can decide if 
she will need to follow up with Gastroenterology.

# Hypernatremia: likely from NPO status, fluid loss from 
pancreatitis.  Improved with PO intake.

# Chest pain: reports continued chest pain.  ECG without 
evidence of ischemia.  Cardiac biomarkers negative x 2.  
Acetaminophen was given for pain.

# Leukocytosis: mild, likely from inflammation, possible 
infection.  CTA chest with atelectasis vs. pneumonia, no cough 
or dyspnea.  Improved over course of hospitalization.

# Hypertension: held home lisinopril initially, but eventually 
restarted

# Anxiety: continued home citalopram

TRANSITIONS OF CARE
-------------------
# Follow-up: She will follow up with her PCP, who can decide if 
she will need to follow up with Gastroenterology.  Chest pain 
may deserve further work-up by her PCP.

# Contact:
Name of health care ___ (SON)
Relationship:son
Phone ___
Proxy form in chart:No
Verified on ___
# Code status: DNR/DNI, confirmed

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Memantine 10 mg PO BID 
2. Multivitamins 1 TAB PO DAILY 
3. Magnesium Oxide 400 mg PO DAILY 
4. Acyclovir Ointment 5% 5 % topical BID 
5. Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) BID 

6. Vitamin D 1000 UNIT PO DAILY 
7. Citalopram 20 mg PO DAILY 
8. Lisinopril 10 mg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Donepezil 10 mg PO QHS 
11. Alendronate Sodium 70 mg PO QSUN 

 
Discharge Medications:
1.  Acyclovir Ointment 5% 5 % topical BID  
2.  Alendronate Sodium 70 mg PO QSUN  
3.  Citalopram 20 mg PO DAILY  
4.  Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) 
BID  
5.  Donepezil 10 mg PO QHS  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  Magnesium Oxide 400 mg PO DAILY  
9.  Memantine 10 mg PO BID  
10.  Multivitamins 1 TAB PO DAILY  
11.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pancreatitis
Transaminitis
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with chest pain, and 
were ultimately found to have pancreatitis.  Further testing 
showed there was no blockage in your bile duct.  You are now 
being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___